US20010027196A1
2-Amino-4-pyridin-2-yl-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-pyridin-2-yl-pyrimidine-5-carbonitrile, 2-mercaptoethylpyridine and DBU inDME. ES-MS m/e (%): 335 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-pyridin-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)C1=NC=CC=C1 | C11H9N5OS
reactant | 2-mercaptoethylpyridine | SCCC1=NC=CC=C1 | C7H9NS
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
product | 2-Amino-4-pyridin-2-yl-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=NC=CC=C1)C#N)SCCC1=NC=CC=C1 | C17H14N6S
